US06242443B1
3-(Cyclopropylmethyl)amino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide
3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt was treated with cyclopropylmethylamine according to the general procedure Method D to give the title compound; m.p.: 276-278° C.; IR (KBr): 3290, 3193, 3104, 2994, 1635, 1603,1564, 1539, 1499, 1486, 1347, 1276, 1251,1153, 1111 cm−1.

reactant | 3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt | [NH+]1=CNC=C1.N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | 3-(Cyclopropylmethyl)amino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C1(CC1)CNC1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O | C11H12N4O4S
